US04283348
Part B: Preparation of 5-(2',4'-dichlorophenyl)-4-ketopentanoic acid
A 1-liter 1-neck R.B. flask was charged with 156.61 g (0.50 Mol) of ethyl-5-(2',4'-dichlorophenyl)-5-cyano-4-ketopentanoate, 153 ml of concentrated sulfuric acid, 153 ml of water, and 440 ml of glacial acetic acid. The reaction mixture was stirred and refluxed for 24 hours. l g, 80% yield) was obtained as a viscous dark-colored oil.

reactant | ethyl-5-(2',4'-dichlorophenyl)-5-cyano-4-ketopentanoate | 0.50 Mol, 156.61 g | C(C)OC(CCC(C(C#N)C1=C(C=C(C=C1)Cl)Cl)=O)=O | C14H13Cl2NO3
reactant | sulfuric acid | 153 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 153 ml | O | H2O
solvent | acetic acid | 440 ml | C(C)(=O)O | C2H4O2
product | 5-(2',4'-dichlorophenyl)-4-ketopentanoic acid | 80% yield | ClC1=C(C=CC(=C1)Cl)CC(CCC(=O)O)=O | C11H10Cl2O3
